US04038391
The procedure of Example 11 is followed but starting with 2-(7-chloro-1,8-naphthyridin-2-yl)-5-chloro-3-phenoxycarbonyloxy-isoindolin-1-one (1.25 g.) and 4-methylpiperazine (1.07 g.) in acetonitrile (33 cc.) and stirring for 24 hours at a temperature of about 20° C. From the reaction mixture, the resulting precipitate is filtered off and washed successively with acetonitrile (6 cc.) and diethyl ether (6 cc.). The product obtained (0.93 g.) is dissolved in methylene chloride (35 cc.), and the solution passed through a column of silica gel (10 g.). Elution is carried out with methylene chloride (16 × 20 cc.); the corresponding eluates are discarded. Elution is the carried out with ethyl acetate (5 × 20 cc.); the corresponding eluates are combined and concentrated under reduced pressure. A crystalline residue (0.9 g.) is obtained and is suspended in ethyl acetate (20 cc.). The crystals are filtered off and dried to yield 3-(4methylpiperazin-1-yl)carbonyloxy-5-chloro- 2-(7-chloro-1,8-naphthyridin-2-yl)isoindolin-1-one (0.75 g.) melting at 255° C.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-5-chloro-3-phenoxycarbonyloxy-isoindolin-1-one | 1.25 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=C(C=C2C1OC(=O)OC1=CC=CC=C1)Cl)=O | C23H13Cl2N3O4
reactant | 4-methylpiperazine | 1.07 g | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 33 cc | C(C)#N | C2H3N
solvent | methylene chloride | 35 cc | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20 cc | C(C)(=O)OCC | C4H8O2
product | 3-(4methylpiperazin-1-yl)carbonyloxy-5-chloro- 2-(7-chloro-1,8-naphthyridin-2-yl)isoindolin-1-one | 0.75 g | CN1CCN(CC1)C(=O)OC1N(C(C2=CC=C(C=C12)Cl)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C22H19Cl2N5O3
